* comparator-decision noise-tran pick-off -- vindiff=0.0mV seed=10000 corner=ss temp=-40.0C (issue #41)
.lib /Users/rwalters/.volare/sky130A/libs.tech/combined/sky130.lib.spice ss
.temp -40.0
.param vdd_val = 1.8
.option rndseed=10000

Vdd VDD 0 dc {vdd_val}
Vclk CLK 0 PULSE(0 {vdd_val} 5.0n 0.1n 0.1n 2.4999999999999996n 17.6n)
Vinp VINP 0 dc 0.9 TRNOISE(0.000383752 3.7e-10 0 0)
Vinn VINN 0 dc 0.9 TRNOISE(0.000383752 3.7e-10 0 0)

* full committed fragment, with the steering pair's gates moved to
* the injected nodes GST_P/GST_N (sizing verbatim; the series
* trnoise sources carry the latch front-end's gate-referred rms):
* comparator_core.spice -- THIS REPO'S OWN comparator design.
*
* GENERATED FILE -- do not hand-edit. Regenerate with ./design/netlist.sh
* (see that script for the exact xschem invocation and the post-processing
* it applies). The source of truth is design/comparator.sch.
*
* This file is no longer the sky130-sar-adc-ported PLACEHOLDER DUT it was
* under issue #9. It is this repo's own design/comparator.sch (issue #24),
* implementing the topology and reset scheme decided in
* spec/decision-records/DR-001-comparator-topology.md (issue #21 / PR #22)
* at a sizing derived first-principles against this repo's own installed
* sky130 device models. The prior placeholder content remains in git
* history; records under sim/comparator-decision/records/ written before
* this change characterize that placeholder, not this design, and say so in
* their own Claim fields (they are append-only evidence and are never
* edited -- they simply stop being the freshest evidence).
*
* Topology: static preamplifier + dynamic StrongARM-class latch per
* DR-004 (issue #34) -- the DR-001-supersession topology-class change
* that closes the kickback gap DR-003 documented. 16 devices: a
* continuously-biased preamp (M_PTAIL, a gate-at-VDD NMOS current source;
* input pair M_PINN/M_PINP; poly loads R_LP/R_LN ~30kohm) whose outputs
* OUTP1/OUTN1 sit at a static ~1.1-1.25 V common mode and carry the
* differential with ~13-18x gain, ahead of a clocked latch (strong tail
* switch M_TAIL2 + steering pair M_STN_P/M_STN_N gated by the preamp
* outputs + cross-coupled PMOS M_LATP_P/M_LATP_N + output reset PMOS
* M_RST_P/M_RST_N), plus the OUT1 absorber caps M_C1P/M_C1N (nfet MOS
* caps at the preamp outputs, absorbing the steering pair's gate kick).
* CLK-gated PMOS precharge of the differential output
* nodes to VDD: during reset every latch PMOS sits at Vgs = 0 exactly, so
* the cross-coupled loop is dead and the reset state is a stable,
* non-conducting equilibrium -- DR-001 Decision 3's property on the latch
* stage. The steering pair's gates sit at the static preamp common mode
* and M_TAIL2 is off in reset, so no supply path exists. The DR-003
* shaper (R_CLKS x M_CLKCAP, tau ~ 250 ps) drives the latch tail and both
* reset PMOS from CLKT: the evaluate onset stays slew-limited. The
* preamp's channels are ALWAYS formed (static bias) -- the input-pin
* channel-formation transient that dominated the dynamic-input variants
* (single-tail AND double-tail; measured ladder in DR-004) does not exist
* in this class, and the latch's kickback arrives at the preamp outputs,
* divided by the preamp's gain and absorbed by the OUTx1 node before the
* pins.
*
* Sizing (all L=0.5um; full derivation in design/comparator.sch's own
* sizing-rationale text block and in DR-004):
*   M_PTAIL               W=0.8um  static current ~44uA total (supply row)
*   M_PINN, M_PINP        W=13um   offset budget + noise lever (DR-004)
*   R_LP, R_LN            L=22um   gain A~13-18, output CM ~1.1-1.25V
*   M_C1P, M_C1N          W=40um   kickback: absorb the steering gate kick
*   M_TAIL2               W= 8um   output descent + regeneration speed
*   M_STN_P, M_STN_N      W= 8um   steer strength / offset (2nd, /A)
*   M_LATP_P, M_LATP_N    W=16um   trip point near VDD/2 (as DR-001 Amd 1)
*   M_RST_P,  M_RST_N     W= 8um   reset tau << reset window, min C_out
*   R_CLKS (res_high_po_0p35, L=1.75um, ~2.4kohm) + M_CLKCAP (W=20um):
*                             DR-003 soft-clock shaper, tau ~ 0.25 ns
*
* Ports: VDD, GND (auto-tied to node 0 by ngspice's built-in gnd-name
* recognition), CLK, VINP, VINN, OUTP, OUTN -- UNCHANGED from every prior
* revision (the preamp is internally biased; no new port).
* Internal nodes: TAILP, OUTP1, OUTN1, TAIL2, CLKT.
* Vin,diff = VINP - VINN > 0 => OUTP settles high.
*
* Every device is sky130_fd_pr__{n,p}fet_01v8 (1.8V core flavour, matching
* this repo's own 1.8V headroom constraint per CLAUDE.md) -- no
* _g5v0d10v5 or other non-core flavour instances.

XM_PTAIL TAILP VDD GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.8 nf=1 ad=0.232 as=0.232 pd=2.18 ps=2.18 nrd=0.3625 nrs=0.3625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_PINN OUTN1 VINN TAILP GND sky130_fd_pr__nfet_01v8 L=0.5 W=13 nf=1 ad=3.77 as=3.77 pd=26.58 ps=26.58 nrd=0.0223076923076923
+ nrs=0.0223076923076923 sa=0 sb=0 sd=0 mult=1 m=1
XM_PINP OUTP1 VINP TAILP GND sky130_fd_pr__nfet_01v8 L=0.5 W=13 nf=1 ad=3.77 as=3.77 pd=26.58 ps=26.58 nrd=0.0223076923076923
+ nrs=0.0223076923076923 sa=0 sb=0 sd=0 mult=1 m=1
XM_TAIL2 TAIL2 CLKT GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_STN_P OUTP GST_P TAIL2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult=1 m=1
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_STN_N OUTN GST_N TAIL2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0 sb=0 sd=0 mult=1 m=1
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_LATP_P OUTP OUTN VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_LATP_N OUTN OUTP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125
+ sa=0 sb=0 sd=0 mult=1 m=1
XM_RST_P OUTP CLKT VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_RST_N OUTN CLKT VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
XR_LP OUTN1 VDD GND sky130_fd_pr__res_high_po_0p35 L=22 mult=1 m=1
XR_LN OUTP1 VDD GND sky130_fd_pr__res_high_po_0p35 L=22 mult=1 m=1
XR_CLKS CLKT CLK GND sky130_fd_pr__res_high_po_0p35 L=1.75 mult=1 m=1
XM_CLKCAP GND CLKT GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 ad=5.8 as=5.8 pd=40.58 ps=40.58 nrd=0.0145 nrs=0.0145 sa=0 sb=0
+ sd=0 mult=1 m=1
XM_C1P GND OUTP1 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=1 ad=11.6 as=11.6 pd=80.58 ps=80.58 nrd=0.00725 nrs=0.00725 sa=0
+ sb=0 sd=0 mult=1 m=1
XM_C1N GND OUTN1 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=1 ad=11.6 as=11.6 pd=80.58 ps=80.58 nrd=0.00725 nrs=0.00725 sa=0
+ sb=0 sd=0 mult=1 m=1

Vstp GST_P OUTP1 dc 0 TRNOISE(0.000252229 3.7e-10 0 0)
Vstn GST_N OUTN1 dc 0 TRNOISE(0.000252229 3.7e-10 0 0)

.control
tran 0.002n 7.6n
wrdata noise_tran_pickoff.csv v(OUTP) v(OUTN)
.endc
.end
